US09447091B2
N-(1H-pyrazol-4-yl)acetamide
Acetic anhydride (0.7 ml, 8.433 mmol) was added dropwise at 0° C. to 1H-pyrazol-4-amine (0.7 g, 8.433 mmol). The mixture was stirred for 30 min at RT and quenched by the addition of crushed ice. The mixture was extracted with ethyl acetate The combined organic layer was washed with water, brine and dried over sodium sulphate. The solvent was distilled off to afford the product in 54% yield. (0.6 g). LC-MS (ESI): Calculated mass: 125.0; Observed mass 126.0 [M+H]+ (rt: 0.115 min).

reactant | Acetic anhydride | 8.433 mmol, 0.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1H-pyrazol-4-amine | 8.433 mmol, 0.7 g | N1N=CC(=C1)N | C3H5N3
product | N-(1H-pyrazol-4-yl)acetamide | 54% yield | N1N=CC(=C1)NC(C)=O | C5H7N3O
